*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15AN4N7C00
* Property : L = 4.7[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 50MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15AN4N7C00 port1 port2
C1 port1 port2 3.54e-14
L2 port1 1 5.58e-9
R2 1 port2 5.00e-2
R3 port1 port2 1.14e+4
L4 port1 2 2.62e-8
R4 2 port2 1.09
L5 port1 3 6.99e-8
R5 3 port2 43.4
L6 port1 4 2.65e-7
R6 4 port2 1.47e+3
.ENDS LQW15AN4N7C00
*----------------------------------------------------------------------
