*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15AN39NH00
* Property : L = 39[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 50MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15AN39NH00 port1 port2
C1 port1 port2 1.72e-14
L2 port1 1 4.50e-8
R2 1 port2 5.00e-1
R3 port1 port2 8.05e+4
L4 port1 2 3.12e-7
R4 2 port2 12.6
L5 port1 3 7.98e-7
R5 3 port2 466
L6 port1 4 2.02e-6
R6 4 port2 1.21e+4
L7 port1 5 1.64e-5
C7 5 6 3.12e-17
R7 6 port2 8.86e+4
L8 port1 7 5.63e-8
C8 7 8 3.76e-15
R8 8 port2 135
L9 port1 9 1.42e-7
C9 9 10 6.71e-16
R9 10 port2 3.77e+3
.ENDS LQW15AN39NH00
*----------------------------------------------------------------------
