*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15AN47NH00
* Property : L = 47[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 50MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15AN47NH00 port1 port2
C1 port1 port2 1.62e-14
L2 port1 1 5.51e-8
R2 1 port2 7.70e-1
R3 port1 port2 8.90e+4
L4 port1 2 3.16e-7
R4 2 port2 12.1
L5 port1 3 9.87e-7
R5 3 port2 620
L6 port1 4 2.73e-6
R6 4 port2 1.43e+4
L7 port1 5 2.13e-5
C7 5 6 3.34e-17
R7 6 port2 1.08e+5
L8 port1 7 9.99e-8
C8 7 8 2.37e-15
R8 8 port2 204
L9 port1 9 2.10e-7
C9 9 10 6.29e-16
R9 10 port2 3.33e+3
L10 port1 11 2.31e-8
C10 11 12 2.90e-15
R10 12 port2 114
.ENDS LQW15AN47NH00
*----------------------------------------------------------------------
