* Modele SPICE Condensateur reel avec ESR et ESL
.subckt CAPACITOR 1 2 PARAMS: C=100n ESR=0.05 ESL=1nH
C1 1 3 {C}
R_esr 3 4 {ESR}
L_esl 4 2 {ESL}
.ends CAPACITOR
