* Modele SPICE Inductance avec resistance serie (DCR) et capacite parasite
.subckt INDUCTOR 1 2 PARAMS: L=10u DCR=0.1 Cpar=2pF
L1 1 3 {L}
R_dcr 3 2 {DCR}
C_par 1 2 {Cpar}
.ends INDUCTOR
