* Modele SPICE AOP Ideal avec gain fini et poles
.subckt OPAMP_IDEAL 1 2 3 4 5
* 1:In+  2:In-  3:VCC  4:VEE  5:Out
E1 6 0 1 2 100000
R1 6 7 1k
C1 7 0 1.59u
E2 5 0 7 0 1
.ends OPAMP_IDEAL
